US08026261B2
5-Benzyloxy-2-difluoromethyl-1-ethyl-1H-pyridin-4-one
5-Benzyloxy-2-difluoromethyl-pyran-4-one (2.0 g, 7:93 mmol) was suspended in 15 mL of methanol. A 2.0M solution of ethylamine in methanol (8.0 mL) was added at room temperature, and the reaction slowly turned into a clear yellow/green solution over 10 min. After 4 h, the reaction mixture was concentrated in vacuo to an oil. The oil was diluted with 10 mL of ethyl acetate and stirred until a solid precipitated out. The solid was collected by suction filtration, thoroughly washed with ether, and dried to afford the title product (1.14 g, 52% yield). HPLC purity (peak area percent) is 97.5% at λ=280 nm using HPLC Method 1 as described above.

reactant | 5-Benzyloxy-2-difluoromethyl-pyran-4-one | 93 mmol, 2.0 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(F)F)=O | C13H10F2O3
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 8.0 mL | CO | CH4O
product | 5-Benzyloxy-2-difluoromethyl-1-ethyl-1H-pyridin-4-one | 1.14 g, 52% yield | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)CC)C(F)F)=O | C15H15F2NO2
